US09102682B2
tert-butyl N-[(1S,2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclopentyl]carbamate was synthesized by treating tert-butyl N-[(1S,2S)-2-aminocyclopentyl]carbamate with 5-bromo-2,4-dichloro-pyrimidine using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate. 1H NMR (600 MHz, DMSO-d6) δ ppm 1.27 (s, 9H) 1.42-1.54 (m, 2H) 1.56-1.65 (m, 2H) 1.80-1.88 (m, 1H) 1.96-2.01 (m, 1H) 3.88-3.96 (m, 1H) 4.03-4.09 (m, 1H) 6.91 (d, J=8.20 Hz, 1H) 7.41 (d, J=7.32 Hz, 1H) 8.18 (s, 1H). LCMS (ESI) 391 (M+H).

reactant | tert-butyl N-[(1S,2S)-2-aminocyclopentyl]carbamate | N[C@@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[(1S,2S)-2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclopentyl]carbamate | BrC=1C(=NC(=NC1)Cl)N[C@@H]1[C@H](CCC1)NC(OC(C)(C)C)=O | C14H20BrClN4O2
